US08039463B2
2-Chlorobenzenesulfonyl chloride (35.4 mg, 0.17 mmol) was added at 0° C. to a stirred solution of N-biphenyl-4-yl-3-oxo-3-piperazin-1-yl-propionamide hydrochloride (60 mg, 0.17 mmol) and DIEA (24.6 mg, 0.19 mmol) in dichloromethane (2 mL). the resulting mixture was stirred for 2 hrs then the product was extracted with dichloromethane. The organics was separated and washed with saturated sodium bicarbonate solution, followed by brine, dried over Na2SO4 and evaporated to dryness. The residue was purified by column chromatography using silica gel 60-120 mesh with 60% ethyl acetate in hexane as eluant to afford 30 mg (36%) of N-Biphenyl-4-yl-3-[4-(2-chloro-benzenesulfonyl)-piperazin-1-yl]-3-oxo-propionamide. LCMS: 498.12 (M+1)+ 96.7%. 1H NMR: (CDCl3): δ 9.6 (s, 1H), 8.06 (d, 1H), 7.56 (m, 8H), 7.42 (t, 3H), 7.34 (t, 1H), 3.78 (t, 2H), 3.7 (t, 2H), 3.48 (s, 2H), 3.38 (m, 4H).

reactant | 2-Chlorobenzenesulfonyl chloride | 0.17 mmol, 35.4 mg | ClC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | N-biphenyl-4-yl-3-oxo-3-piperazin-1-yl-propionamide hydrochloride | 0.17 mmol, 60 mg | Cl.C1(=CC=C(C=C1)NC(CC(N1CCNCC1)=O)=O)C1=CC=CC=C1
reactant | DIEA | 0.19 mmol, 24.6 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | N-Biphenyl-4-yl-3-[4-(2-chloro-benzenesulfonyl)-piperazin-1-yl]-3-oxo-propionamide | 30 mg, 36% | C1(=CC=C(C=C1)NC(CC(=O)N1CCN(CC1)S(=O)(=O)C1=C(C=CC=C1)Cl)=O)C1=CC=CC=C1 | C25H24ClN3O4S
